US06727264B1
N-{3-[1-(3,3-DIPHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure O and Scheme W using 3,3-diphenyl-1-propanol and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 441.2 (M+H)+.

reactant | 3,3-diphenyl-1-propanol | C1(=CC=CC=C1)C(CCO)C1=CC=CC=C1 | C15H16O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-(3,3-DIPHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C30H36N2O
